US06498170B2
4-Butoxy-benzenesulfonic acid 4-(3-{[1-(4-butoxy-benzenesulfonyl)-azetidin-3-yl]-tert-butoxycarbonyl-amino}-2-hydroxy-propoxy)-phenylester
To a solution of Azetidin-3-yl-[(2S)-2-hydroxy-3-(4-hydroxy-phenoxy)-propyl]-carbamicacid tert-butyl ester (0.28 g, 0.8 mmol) in chloroform (4 ml) was added triethylamine (0.2 g, 2 mmol), and 4-butoxybenzenesulfonyl chloride (0.26 g, 1.0 mmol). The mixture was stirred at reflux for 5 h, and then quenched with 50% sodium bicarbonate solution. The chloroform was evaporated and the aqueous solution was removed. The residue was chromatographed (silica gel, ethyl acetate-hexanes/2:1) to give: (1) 0.13 g of [1-(4-Butoxy-benzenesulfonyl)-azetidin-3-yl]-[(2S)-2-hydroxy-3-(4-hydroxy-phenoxy)-propyl]-carbamic acid tert-butyl ester as a colorless foam; MS (ES) m/z 551.1 (MH+); HRMS (El) Calcd. for C27H38N2O8S (M+): 550.2349, Found: 550.2353, and (2) 0.17 g of 4-Butoxy-benzenesulfonic acid 4-(3-{[(1-(4-butoxy-benzenesulfonyl)-azetidin-3-yl]-tert-butoxycarbonyl-amino}-2-hydroxy-propoxy)-phenylester as a colorless foam; MS (ES) m/z 763.3 (MH+); HRMS (ES) Calcd. for C37H51N2O11S2 (MH+): 763.2934, Found: 763.2899.

reactant | Azetidin-3-yl-[(2S)-2-hydroxy-3-(4-hydroxy-phenoxy)-propyl]-carbamicacid tert-butyl ester | 0.8 mmol, 0.28 g | C(C)(C)(C)OC(N(C[C@@H](COC1=CC=C(C=C1)O)O)C1CNC1)=O | C17H26N2O5
reactant | triethylamine | 2 mmol, 0.2 g | C(C)N(CC)CC | C6H15N
reactant | 4-butoxybenzenesulfonyl chloride | 1.0 mmol, 0.26 g | C(CCC)OC1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO3S
reactant | [1-(4-Butoxy-benzenesulfonyl)-azetidin-3-yl]-[(2S)-2-hydroxy-3-(4-hydroxy-phenoxy)-propyl]-carbamic acid tert-butyl ester | 0.13 g | C(C)(C)(C)OC(N(C[C@@H](COC1=CC=C(C=C1)O)O)C1CN(C1)S(=O)(=O)C1=CC=C(C=C1)OCCCC)=O | C27H38N2O8S
reactant | 4-Butoxy-benzenesulfonic acid | 0.17 g | C(CCC)OC1=CC=C(C=C1)S(=O)(=O)O | C10H14O4S
solvent | chloroform | 4 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-Butoxy-benzenesulfonic acid 4-(3-{[1-(4-butoxy-benzenesulfonyl)-azetidin-3-yl]-tert-butoxycarbonyl-amino}-2-hydroxy-propoxy)-phenylester | C(CCC)OC1=CC=C(C=C1)S(=O)(=O)N1CC(C1)N(CC(COC1=CC=C(C=C1)OS(=O)(=O)C1=CC=C(C=C1)OCCCC)O)C(=O)OC(C)(C)C | C37H50N2O11S2
